2174-11-14 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2174-11-13**] 10:02 AM
   --T&S good until [**11-15**], has 2U crossed
   --EGD showing "Single clean base 2.5cm x3cm non-bleeding ulcer with
   blood clot in the antrum. Clot flushed away, epi injected at ulcer
   edge, cauterized area covered with blood." Needs repeat EGD in 6wks
   with Bx. Cont. IV PPI for 48hrs.
   --6pm Hct 25.9, INR 1.4
   --In afternoon pt noted to have loss of sensation in bilateral anterior
   shins, decreased Dopplers, and cold L foot. Vascular consulted. They
   did not feel this to be vascular as pulses similar now as compared to
   recent exam, and also given its bilaterality and pure sensory deficit.
   --ID recs decrease Cefazolin dose given n/v but if due to GIB can
   eventually go back to 2g q8hrs
   --Getting 9th U PRBC's at MN.
   Allergies:
   Penicillins
   Rash;
   Morphine
   Confusion/Delir
   Codeine
   Confusion/Delir
   Last dose of Antibiotics:
   Cefazolin - [**2174-11-14**] 01:37 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Fentanyl - [**2174-11-13**] 10:10 AM
   Midazolam (Versed) - [**2174-11-13**] 10:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-11-14**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.6
C (96
   HR: 107 (88 - 119) bpm
   BP: 129/69(84) {86/46(56) - 136/75(98)} mmHg
   RR: 22 (6 - 22) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
           Total In:
                                                                  5,415 mL
                                                                    952 mL
   PO:
                                                                    100 mL
                                                                    310 mL
   TF:
   IVF:
                                                                  2,730 mL
                                                                    292 mL
   Blood products:
                                                                  2,585 mL
                                                                    350 mL
   Total out:
                                                                  2,400 mL
                                                                  1,120 mL
   Urine:
                                                                  2,000 mL
                                                                  1,120 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  3,015 mL
                                                                   -168 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Awake, alert, appropriate, tangential speech. R sternoclavicular joint
   without erythema or tenderness to palpation. Able to rotate R shoulder
   without significant pain but somewhat limited in range. L foot
   continues to be cold compared to R with absent palpable pulses but
   Dopplerable.
   Labs / Radiology
   255 K/uL
   9.1 g/dL
   99 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.5 mEq/L
   76 mg/dL
   114 mEq/L
   147 mEq/L  (today)
   27.3 %
   15.3 K/uL
        [image002.jpg]
                             [**2174-11-13**]  05:16 AM
                             [**2174-11-13**]  06:14 PM
                             [**2174-11-13**]  11:51 PM
                             [**2174-11-14**]  05:26 AM
   WBC
   15.5
   16.7
   16.4
   15.3
   Hct
   22.1
   25.9
   26.5
   27.3
   Plt
   [**Telephone/Fax (3) 10726**]55
   Cr
   1.5
   1.2
   Glucose
   113
   99
   Other labs: PT / PTT / INR:14.3/27.2/1.2  (today)   <--1.4, 1.8, 3.4,
   ALT / AST:2/37    (today), Alk Phos / T Bili:64/1.1   (today),
   Differential-Neuts:67.0 %      new diff pending, Band:10.0 %,
   Lymph:10.0 %, Mono:8.0 %, Eos:1.0 %, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Fluid analysis / Other labs: ESR pending, 72
   CRP pending,215.1
   Microbiology: BCx negative to date x6 [**2174-11-8**] to [**2174-11-12**]
   [**2174-11-7**] joint fluid with MSSA
   [**2174-11-6**] wound R foot with MSSA
   Assessment and Plan
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   78M w DM2, PVD, CAD, afib, intially presented for falls, hospital
   course complicated by MSSA bacteremia from presumed foot source,
   seeding of sternal joint and possibly lumbar epidural space, now
   admitted to MICU with hematemesis and s/p EGD with bleeding ulcer
   visualized. It is likely the pt
s continued n/v on the floor was less
   likely due to narcotics and probably due to severe PUD, and the ulcer
   finally opened up.
   .
   #) Hematemesis: Intermittent n/v through admission, previously
   nonbloody, then developed coffee ground emesis. Is now s/p 9U although
   Hct doesn't appear to have corrected appropriately with Hct initially
   falling after first transfusion and currently at 26.5 after multriple
   transfusions yesterday. EGD yesterday am showing ulcer that was
   injected and cauterized, with further recs to continue 48hrs of IV PPI
   and repeat EGD in 6wks with Bx.
   --Pt currently still only with R PICC and L AC PIV, would strongly
   consider another large bore PIV if Hct does not stabilize
   --T&S outdates [**2174-11-15**]
   --Has 2U crossmatched
   --Hct checks q6hrs
   --Transfuse for <25 or active bleeding
   --F/u INR this am, is normalizing
   --Get H. Pylori Ab serology
   --Continuing IV PPI
   --Will need f/u EGD in 6 wks
   --Zofran prn
   --Advanced diet overnight to clears
   --Avoid narcotics contributing to ileus --> pain currently controlled
   with Tylenol and Fentanyl
   --Continue iron supplementation for chronic iron deficiency component
   (last colonoscopy [**2171**], multiple polypectomy)
   --Holding Lisinopril and Metoprolol, will add back as necessary
   --Has not been getting outpt Lasix regimen in house, will use prn for
   resp distress with transfusions
   .
   #) Bacteremia: BCx positive on [**11-6**] for MSSA, neg daily since. Source
   thought to be LE ulcers given x-ray with possibility of lucency/osteo
   vs sternoclavicular joint post trauma given same organism growing
   (unclear which came first). Other sources ruled out with neg UA and
   TEE. Now complicated by lumber MRI concerning for septic facet,
   discitis and paraspinal abscess.
   --Have decreased Cefazolin to 1g IV q8 per ID recs as may have
   contributed to n/v but will  increase back to 2g IV q8 if without
   continued n/v
   --Continue nonsurgical management of sternoclavicular joint infection
   per thoracic
   --Per neurosurgery, no plan for intervention given normal neuro exam.
   --Pt unlikely to be able to tolerate long MRI without
   intubation/sedation and doubt that visualizing an epidural abscess
   would change the course of an already long course of [**Last Name (LF) **], [**First Name3 (LF) **] will not
   proceed to further imaging of L spine unless neurologically
   deteriorates or pt acutely decompensates.
   --If clinically worsens consider fluero aspiration of L4 fluid by IR.
   -- Regular neuro checks (q4 for now)
   -- consider CT abdomen/pelvis to look for psoas abscess or R foot MR
   for osteo to further eval of source and/or complication
 again, unsure
   this would change course of [**Last Name (LF) **], [**First Name3 (LF) **] will hold off on this for now and
   continue IV [**First Name3 (LF) **] as is.
   -- can stop surveillance cultures, f/u prior BCx until finalized
   -- wound care of R plantar foot ulcer per podiatry
   --Was receiving Ketorolac for pain but not well controlled, have now
   switched to Fentanyl
   .
   #) Type 2 diabetes: Diet controlled, last HbA1c was 5.7%. Has not
   required insulin while in house.
   --BS's well controlled in the 100's through yesterday
   --Continue to watch finger sticks
   -- Advanced to clears
   .
   #) Atrial Fibrillation:
   -- Holding coumadin due to recent GIB
   -- Have added back Metoprolol 25 PO bid
   .
   #) CAD: no active chest pain
   -- continue statin, holding BB, ACEi, ASA
   -- monitor EKGs prn
   -- if active chest pain, decrease threshold for transfusion
   .
   FEN: Advanced to clear overnight, lytes prn, IVF/blood products prn
   PPX:
   -DVT ppx: was supratherapeutic on coumadin, now INR 1.2 but will hold
   subQ heparin given recent bleed
   -Bowel regimen: was held while NPO, have now restarted since taking
   Fentanyl for pain
   -Pain management with: Fentanyl and Tylenol
   ACCESS: PIV, PICC placed [**11-9**]
 if brisk bleed, may need second
   large bore iV?
   CODE STATUS: Confirmed full by primary medicine team
   EMERGENCY CONTACT:
   Daughter [**First Name8 (NamePattern2) 36**] [**Last Name (NamePattern1) 10710**] [**Telephone/Fax (1) 10711**].
   DISPOSITION: Keep in MICU for now as Hct
s have failed to appropriately
   respond despite 9U
s. Will continue to watch q6hrs Hct
s and assess
   later.
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2174-11-13**] 12:25 AM
   20 Gauge - [**2174-11-13**] 12:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-11-15 07:25:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --ID recs: continue cefazolin at increased 2g IV q8 dose
   --noon and 6pm Hct stable at 26 --> this am Hct's slightly lower at
   24.6 then 24.1
   --Plan for call-out in early AM if he remains stable.
   Allergies:
   Penicillins
   Rash;
   Morphine
   Confusion/Delir
   Codeine
   Confusion/Delir
   Last dose of Antibiotics:
   Cefazolin - [**2174-11-15**] 12:07 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-11-15**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.2
C (97.2
   HR: 72 (70 - 116) bpm
   BP: 92/47(58) {92/23(41) - 151/93(131)} mmHg
   RR: 9 (8 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,590 mL
                                                                    186 mL
   PO:
                                                                  1,650 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    590 mL
                                                                     86 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  3,340 mL
                                                                    790 mL
   Urine:
                                                                  3,340 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -750 mL
                                                                   -604 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   221 K/uL
   7.9 g/dL
   86 mg/dL
   1.1 mg/dL
   29 mEq/L
   4.4 mEq/L
   55 mg/dL
   114 mEq/L
   147 mEq/L
   24.1 %
   12.0 K/uL
        [image002.jpg]
                             [**2174-11-13**]  05:16 AM
                             [**2174-11-13**]  06:14 PM
                             [**2174-11-13**]  11:51 PM
                             [**2174-11-14**]  05:26 AM
                             [**2174-11-14**]  12:34 PM
                             [**2174-11-14**]  05:45 PM
                             [**2174-11-15**]  12:14 AM
                             [**2174-11-15**]  04:33 AM
   WBC
   15.5
   16.7
   16.4
   15.3
   12.0
   Hct
   22.1
   25.9
   26.5
   27.3
   26.9
   26.2
   24.6
   24.1
   Plt
   [**Telephone/Fax (3) 10726**]55
   221
   Cr
   1.5
   1.2
   1.1
   Glucose
   113
   99
   86
   Other labs: PT / PTT / INR:14.7/28.3/1.3  (today), ALT / AST:2/37, Alk
   Phos / T Bili:64/1.1, Differential-Neuts:82.0 %  yesterday, Band:0.0 %,
   Lymph:9.0 %, Mono:2.0 %, Eos:4.0 %, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Fluid analysis / Other labs: ESR 30 <-- 72
   CRP pending <--215.1
   Microbiology: H pylori pending
   BCx x6 still negative to date from [**11-8**] to [**11-12**]
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 NAUSEA / VOMITING
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 HYPERNATREMIA (HIGH SODIUM)
 PERIPHERAL VASCULAR DISEASE (PVD) WITH CRITICAL LIMB ISCHEMIA
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   78M w DM2, PVD, CAD, afib, intially presented for falls, hospital
   course complicated by MSSA bacteremia from presumed foot source,
   seeding of sternal joint and possibly lumbar epidural space, now
   admitted to MICU with hematemesis and s/p EGD with bleeding ulcer
   visualized. It is likely the pt
s continued n/v on the floor was less
   likely due to narcotics and probably due to severe PUD, and the ulcer
   finally opened up.
   .
   #) Hematemesis: Intermittent n/v through admission, previously
   nonbloody, then developed coffee ground emesis. Is now s/p 9U although
   Hct doesn't appear to have corrected appropriately with Hct initially
   falling after first transfusion and currently at 26.5 after multriple
   transfusions yesterday. EGD yesterday am showing ulcer that was
   injected and cauterized, with further recs to continue 48hrs of IV PPI
   and repeat EGD in 6wks with Bx.
   No current symptoms (no n/v, no hematemesis, no BRBPR, no melena). Now
   s/p 9U without much of an increase in Hct. Was 26 through yesterday and
   seen to be 24 this am.
   --Pt currently still only with R PICC and L AC PIV, would strongly
   consider another large bore PIV if Hct does not stabilize
   --T&S outdates [**2174-11-15**]
   --Has 2U crossmatched
   --Hct checks q6hrs
   --Transfuse for <25 or active bleeding
   --F/u INR this am, is normalizing
   --Get H. Pylori Ab serology
   --Continuing IV PPI
   --Will need f/u EGD in 6 wks
   --Zofran prn
   --Advanced diet overnight to clears
   --Avoid narcotics contributing to ileus --> pain currently controlled
   with Tylenol and Fentanyl
   --Continue iron supplementation for chronic iron deficiency component
   (last colonoscopy [**2171**], multiple polypectomy)
   --Holding Lisinopril and Metoprolol, will add back as necessary
   --Has not been getting outpt Lasix regimen in house, will use prn for
   resp distress with transfusions
   .
   #) Bacteremia: BCx positive on [**11-6**] for MSSA, neg daily since. Source
   thought to be LE ulcers given x-ray with possibility of lucency/osteo
   vs sternoclavicular joint post trauma given same organism growing
   (unclear which came first). Other sources ruled out with neg UA and
   TEE. Now complicated by lumber MRI concerning for septic facet,
   discitis and paraspinal abscess.
   --Have decreased Cefazolin to 1g IV q8 per ID recs as may have
   contributed to n/v but will  increase back to 2g IV q8 if without
   continued n/v
   --Continue nonsurgical management of sternoclavicular joint infection
   per thoracic
   --Per neurosurgery, no plan for intervention given normal neuro exam.
   --Pt unlikely to be able to tolerate long MRI without
   intubation/sedation and doubt that visualizing an epidural abscess
   would change the course of an already long course of [**Last Name (LF) **], [**First Name3 (LF) **] will not
   proceed to further imaging of L spine unless neurologically
   deteriorates or pt acutely decompensates.
   --If clinically worsens consider fluero aspiration of L4 fluid by IR.
   -- Regular neuro checks (q4 for now)
   -- consider CT abdomen/pelvis to look for psoas abscess or R foot MR
   for osteo to further eval of source and/or complication
 again, unsure
   this would change course of [**Last Name (LF) **], [**First Name3 (LF) **] will hold off on this for now and
   continue IV [**First Name3 (LF) **] as is.
   -- can stop surveillance cultures, f/u prior BCx until finalized
   -- wound care of R plantar foot ulcer per podiatry
   --Was receiving Ketorolac for pain but not well controlled, have now
   switched to Fentanyl
   #) Type 2 diabetes: Diet controlled, last HbA1c was 5.7%. Has not
   required insulin while in house.
   --BS's well controlled in the 100's through yesterday
   --Continue to watch finger sticks
   -- Advanced to clears
   .
   #) Atrial Fibrillation:
   -- Holding coumadin due to recent GIB
   -- Have added back Metoprolol 25 PO bid
   .
   #) CAD: no active chest pain
   -- continue statin, holding BB, ACEi, ASA
   -- monitor EKGs prn
   -- if active chest pain, decrease threshold for transfusion
   FEN: Advanced to clear overnight, lytes prn, IVF/blood products prn
   PPX:
   -DVT ppx: was supratherapeutic on coumadin, now INR 1.2 but will hold
   subQ heparin given recent bleed
   -Bowel regimen: was held while NPO, have now restarted since taking
   Fentanyl for pain
   -Pain management with: Fentanyl and Tylenol
   ACCESS: PIV, PICC placed [**11-9**]
 if brisk bleed, may need second
   large bore iV?
   CODE STATUS: Confirmed full by primary medicine team
   EMERGENCY CONTACT:
   Daughter [**First Name8 (NamePattern2) 36**] [**Last Name (NamePattern1) 10710**] [**Telephone/Fax (1) 10711**].
   DISPOSITION: Keep in MICU for now as Hct
s have failed to appropriately
   respond despite 9U
s. Will continue to watch q6hrs Hct
s and assess
   later.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2174-11-13**] 12:25 AM
   20 Gauge - [**2174-11-13**] 12:26 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: